US07273878B2
To 30 ml of N,N-dimethylformamide, 1.00 g (6.4 mmol) of 6-chloronicotinic acid and 2.00 g (20 mmol) of cyclohexanol were dissolved, followed by adding 0.80 g (20 mmol) of 60% sodium hydride, stirring at room temperature for 1 hour and heating under refluxing for 3 hours. The reaction liquid was then poured in 100 ml of ice water, and acetic acid was added to make pH 5. The crystal precipitated was filtered, washed with cold water and hexane, and dried to obtain 1.30 g (yield: 92%) of 6-cyclohexyloxynicotinic acid.

reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 6-chloronicotinic acid | 6.4 mmol, 1.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | cyclohexanol | 20 mmol, 2.00 g | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-cyclohexyloxynicotinic acid | 1.30 g, yield: 92% | C1(CCCCC1)OC1=NC=C(C(=O)O)C=C1 | C12H15NO3
